### PR TITLE
bump to v4.23.0

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR bumps the toolchain to v4.23.0, and makes small fixes to details to ensure the library builds.

### CODE REVIEW

File: FormalConjectures/ForMathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 1]
```diff
@@ -15,7 +15,7 @@ limitations under the License.
 -/
 
 import Mathlib.Analysis.SpecialFunctions.Log.Basic
-import Mathlib.Data.Complex.ExponentialBounds
+import Mathlib.Analysis.Complex.ExponentialBounds
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/Analysis/SpecialFunctions/Log/Basic.lean:17]: Mind keeping the imports alphabetical?

File: FormalConjectures/Wikipedia/AgohGiuga.lean [hunk 2]
```diff
@@ -160,13 +160,17 @@ theorem korselts_criterion (a : ℕ) (ha₁ : a.Composite) :
...
-      · obtain ⟨_, h⟩ := h_dvd p hp hpa
+      · obtain ⟨w, h⟩ := h_dvd p hp hpa
         obtain ⟨ha₁, ha₂⟩ := ha₁
         apply Nat.Prime.pow_dvd_iff_le_factorization hp hb |>.1
         have : a.factorization p ≤ 1 := not_lt.1 fun h =>
           h_sqfr p hp <| (sq p ▸ (pow_dvd_pow p h).trans (a.ordProj_dvd p))
-        field_simp [h, pow_mul, le_antisymm this (hp.dvd_iff_one_le_factorization _ |>.1 _),
-          ← CharP.cast_eq_zero_iff (ZMod p)]
+        replace : a.factorization p = 1 := by
+          apply le_antisymm this (hp.dvd_iff_one_le_factorization (by grind) |>.1 hpa)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/AgohGiuga.lean]:
```suggestion
        replace : a.factorization p = 1 :=
          this.antisymm (hp.dvd_iff_one_le_factorization (by grind) |>.1 hpa)
```

File: FormalConjectures/Wikipedia/Mandelbrot.lean [hunk 3]
```diff
@@ -79,7 +79,7 @@ theorem multibrotSet_eq {n : ℕ} (hn : 2 ≤ n) :
         refine .trans ?_ (sub_le_sub hm h')
         rw [hr', hr'', show ‖(fun z ↦ z ^ n + c)^[k] 0‖ = a + r by simp [a]]
         suffices a ≤ a * (n * n ^ m) by linarith
-        refine (mul_one a).symm.trans_le <| (mul_le_mul_left ha).2 ?_
+        refine (mul_one a).symm.trans_le <| (mul_le_mul_iff_right₀ ha).2 ?_
         have hn : 1 ≤ (n : ℝ) := Nat.one_le_cast.2 hn.le
         simpa using mul_le_mul hn (one_le_pow₀ hn)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Mandelbrot.lean]: Could you switch to `grw` here maybe, to increase robustness of the proof?

Comment (BoltonBailey) [reply FormalConjectures/Wikipedia/Mandelbrot.lean]: I guess this whole line can just be replaced by `rw [le_mul_iff_one_le_right ha]`, so I'll do that.

**Review by YaelDillies — APPROVED** [review]
Thank you very much!

**Comment by BoltonBailey** [comment]
Sorry, seems I had neglected to update v4.22.0 -> v4.23.0 in the `docbuild/lakefile.toml` file, causing CI to fail. I have fixed this and hopefully there will be no more issues (the substring "v4.22" no longer appears in grep of the folder), but CI needs to run again.

**Comment by YaelDillies** [comment]
Oh no, we are still using the docbuild setup? I need to investigate that.

**Comment by mo271** [comment]
We should re-open this once we are ready to move to v4.23.0
